US08314091B2
C: N-tert-Butyl-3-((4-(4-(3-cyclobutylureido)benzoyl)piperazin-1-yl)methyl)-2-fluorobenzamide
A stirred mixture of 3-(bromomethyl)-N-tert-butyl-2-fluorobenzamide (0.36 mmol, 105 mg), 1-cyclobutyl-3-(4-(piperazine-1-carbonyl)phenyl)urea (0.33 mmol, 620 mg) and triethylamine (2.5 mmol, 0.35 mL, 253 mg) in tetrahydrofuran (2 mL) was heated to 70° C. for 16 hours. After this time the volatiles were removed under vacuum. The residue was purified by strong cation exchange chromatography and basic reverse phase HPLC to yield the title compound (74 mg).

reactant | 3-(bromomethyl)-N-tert-butyl-2-fluorobenzamide | 0.36 mmol, 105 mg | BrCC=1C(=C(C(=O)NC(C)(C)C)C=CC1)F | C12H15BrFNO
reactant | 1-cyclobutyl-3-(4-(piperazine-1-carbonyl)phenyl)urea | 0.33 mmol, 620 mg | C1(CCC1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H22N4O2
reactant | triethylamine | 2.5 mmol, 0.35 mL, 253 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-tert-Butyl-3-((4-(4-(3-cyclobutylureido)benzoyl)piperazin-1-yl)methyl)-2-fluorobenzamide | 74 mg | C(C)(C)(C)NC(C1=C(C(=CC=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)NC1CCC1)=O)F)=O | C28H36FN5O3
